** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadInOut30mA.sch
.subckt sg13g2_IOPadInOut30mA vss vdd ! iovss iovdd1 c2p pad iovdd c2p_en p2c
*.PININFO iovdd1:B vss:B vdd:B !:B iovss:B iovdd:B pad:B c2p_en:B c2p:B p2c:B
R2 vss ! ptap1 A=24p P=160.6u
R1 iovss ! ptap1 A=4422.9752p P=996.1u
x2 iovdd ! pad pad ! sg13g2_DCPDiode_noptap
x1 pad iovss pad iovdd ! sg13g2_DCNDiode
x3 iovdd1 vss c2p_en net1 vdd ! net2 c2p sg13g2_GateDecode_noptap
x4 pad pad pad pad pad pad pad pad iovss ! net2 sg13g2_Clamp_N15N15D
x5 net1 iovdd iovss pad pad pad pad pad pad pad pad ! sg13g2_Clamp_P15N15D_noptap
x6 iovdd1 iovss pad p2c vdd vss ! sg13g2_LevelDown_noptap
.ends

* expanding   symbol:  sg13g2_DCPDiode_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sch
.subckt sg13g2_DCPDiode_noptap cathode guard anode1 anode2 sub
*.PININFO anode2:B cathode:B guard:B anode1:B sub:B
DD1 anode1 cathode dpantenna l=27.78u w=1.26u
DD2 anode2 cathode dpantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  sg13g2_DCNDiode.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode1 anode cathode2 guard sub
*.PININFO cathode2:B guard:B anode:B cathode1:B sub:B
R1 anode sub ptap1 A=141.2964p P=221.76u
DD1 sub cathode1 dantenna l=27.78u w=1.26u
* noconn guard
DD2 sub cathode2 dantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  sg13g2_GateDecode_noptap.sym # of pins=8
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_GateDecode_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_GateDecode_noptap.sch
.subckt sg13g2_GateDecode_noptap iovdd vss en pgate vdd sub ngate core
*.PININFO pgate:B ngate:B iovdd:B vss:B en:B vdd:B sub:B core:B
x1 iovdd vss net3 pgate vdd sub sg13g2_LevelUp_noptap
x2 iovdd vss net2 ngate vdd sub sg13g2_LevelUp_noptap
x3 vss en net1 vdd sub sg13g2_io_inv_x1_noptap
x4 vss core net3 vdd sub en sg13g2_io_nand2_x1_noptap
x5 vss core net2 vdd sub net1 sg13g2_io_nor2_x1_noptap
x6 vss vdd sub sg13g2_io_tie_noptap
R2 vss sub ptap1 A=2.3625p P=16.95u
.ends


* expanding   symbol:  sg13g2_Clamp_N15N15D.sym # of pins=4
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N15N15D.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N15N15D.sch
.subckt sg13g2_Clamp_N15N15D pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] iovss sub gate
*.PININFO iovss:B gate:B pad[7:0]:B sub:B
R1 iovss sub ptap1 A=55.7736p P=328.08u
DD1 sub gate dantenna l=0.78u w=0.78u
MM1 pad[0] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
MM2 pad[1] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
MM3 pad[2] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
MM4 pad[3] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
MM5 pad[4] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
MM6 pad[5] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
MM7 pad[6] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
MM8 pad[7] gate iovss sub sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
.ends


* expanding   symbol:  sg13g2_Clamp_P15N15D_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_P15N15D_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_P15N15D_noptap.sch
.subckt sg13g2_Clamp_P15N15D_noptap gate iovdd iovss pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub
*.PININFO iovss:B gate:B iovdd:B pad[7:0]:B sub:B
MM1 pad[0] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
DD1 gate iovdd dpantenna l=0.78u w=0.78u
MM2 pad[1] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
MM3 pad[2] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
MM4 pad[3] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
MM5 pad[4] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
MM6 pad[5] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
MM7 pad[6] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
MM8 pad[7] gate iovdd iovdd sg13_hv_pmos w=13.32u l=0.6u ng=2 m=1
.ends


* expanding   symbol:  sg13g2_LevelDown_noptap.sym # of pins=7
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelDown_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelDown_noptap.sch
.subckt sg13g2_LevelDown_noptap iovdd iovss pad core vdd vss !
*.PININFO iovdd:B vss:B core:B pad:B vdd:B iovss:B !:B
MM5 net2 net1 vdd vdd sg13_hv_pmos w=4.65u l=0.45u ng=1 m=1
MM6 net2 net1 vss ! sg13_hv_nmos w=2.65u l=0.45u ng=1 m=1
MM7 core net2 vss ! sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
MM8 core net2 vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
x1 net1 iovdd iovss pad ! sg13g2_SecondaryProtection_noptap
.ends


* expanding   symbol:  sg13g2_LevelUp_noptap.sym # of pins=6
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelUp_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelUp_noptap.sch
.subckt sg13g2_LevelUp_noptap iovdd vss in out vdd sub
*.PININFO iovdd:B vss:B out:B in:B vdd:B sub:B
MM1 net1 net3 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
MM3 net1 net2 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
MM4 net2 net1 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
MM5 out net2 iovdd iovdd sg13_hv_pmos w=3.9u l=0.45u ng=1 m=1
MM2 net2 in vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
MM6 out net2 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
MM7 net3 in vss sub sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
MM8 net3 in vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  sg13g2_io_inv_x1_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_inv_x1_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_inv_x1_noptap.sch
.subckt sg13g2_io_inv_x1_noptap vss i nq vdd sub
*.PININFO vss:B nq:B i:B vdd:B sub:B
MM7 nq i vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
MM8 nq i vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  sg13g2_io_nand2_x1_noptap.sym # of pins=6
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_nand2_x1_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_nand2_x1_noptap.sch
.subckt sg13g2_io_nand2_x1_noptap vss i0 nq vdd sub i1
*.PININFO vss:B nq:B i0:B vdd:B sub:B i1:B
MM7 net1 i0 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
MM8 nq i0 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
MM2 nq i1 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
MM1 nq i1 net1 sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  sg13g2_io_nor2_x1_noptap.sym # of pins=6
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_nor2_x1_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_nor2_x1_noptap.sch
.subckt sg13g2_io_nor2_x1_noptap vss i0 nq vdd sub i1
*.PININFO vss:B nq:B i0:B vdd:B sub:B i1:B
MM7 nq i0 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
MM8 net1 i0 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
MM1 nq i1 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
MM2 nq i1 net1 vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  sg13g2_io_tie_noptap.sym # of pins=3
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_tie_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_io_tie_noptap.sch
.subckt sg13g2_io_tie_noptap vss vdd sub
*.PININFO vss:B vdd:B sub:B
* noconn vdd
* noconn vss
* noconn sub
.ends


* expanding   symbol:  sg13g2_SecondaryProtection_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_SecondaryProtection_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_SecondaryProtection_noptap.sch
.subckt sg13g2_SecondaryProtection_noptap core iovdd iovss pad !
*.PININFO iovss:B core:B pad:B iovdd:B !:B
DD1 core iovdd dpantenna l=4.98u w=0.64u
DD2 ! core dantenna l=3.1u w=0.64u
RR1 core pad $SUB=sub! $[rppd] w=1e-6 l=2e-6 b=0 m=1
.ends

